US07572808B2
Preparation of 2-(4-(1H-pyrazol-1-yl)benzyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
The title compound was prepared by coupling 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one with the requisite benzyl halide in a manner analogous to that in which 7-(4-chlorophenyl)-2-(4-(methylsufonyl)benzyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one was prepared. HPLC/MS: retention time=2.72 min, [M+H]+=479.

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=NC=C2 | C17H11ClN4O
reactant | 7-(4-chlorophenyl)-2-(4-(methylsufonyl)benzyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC2=CC=C(C=C2)S(=O)(=O)C)=O)C2=CC=NC=C2 | C25H19ClN4O3S
product | 2-(4-(1H-pyrazol-1-yl)benzyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | N1(N=CC=C1)C1=CC=C(CN2N=C3N(C=CC(=C3C3=CC=NC=C3)C3=CC=C(C=C3)Cl)C2=O)C=C1 | C27H19ClN6O
